US09062013B2
trans-N-(2,6-dimethoxypyridin-3-yl)-2-phenylspiro[2.4]heptane-1-carboxamide
trans-2-Phenylspiro[2.4]heptane-1-carboxylic acid (300 mg, 1.39 mmol) and 2,6-dimethoxy-pyridin-3-ylamine (214 mg, 1.39 mmol) were reacted as described under General Procedure D to furnish the title compound (260 mg, 52%) as a purple solid. 1H NMR (300 MHz, CDCl3) δ 8.54 (d, J=8.2 Hz, 1H), 7.61 (br s, 1H), 7.32-7.14 (m, 5H), 6.30 (d, J=8.2 Hz, 1H), 4.02 (s, 3H), 3.89 (s, 3H), 2.87 (d, J=5.7 Hz, 1H), 2.05 (d, J=5.7 Hz, 1H), 1.93-1.90 (m, 2H), 1.67-1.42 (m, 6H). mp 131-133° C. ESIMS m/z [M+H]+ 353.2.

reactant | trans-2-Phenylspiro[2.4]heptane-1-carboxylic acid | 1.39 mmol, 300 mg | C1(=CC=CC=C1)[C@H]1[C@@H](C12CCCC2)C(=O)O | C14H16O2
reactant | 2,6-dimethoxy-pyridin-3-ylamine | 1.39 mmol, 214 mg | COC1=NC(=CC=C1N)OC | C7H10N2O2
product | trans-N-(2,6-dimethoxypyridin-3-yl)-2-phenylspiro[2.4]heptane-1-carboxamide | 260 mg, 52% | COC1=NC(=CC=C1NC(=O)[C@H]1[C@@H](C12CCCC2)C2=CC=CC=C2)OC | C21H24N2O3
